US04082851
D. (4-benzyl-3-n-butoxy-5-sulfamylbenzyl)dimethylamine
To a stirred solution of (5-amino-4-benzyl-3-n-butoxybenzyl)dimethylamine (6.25 g) in a mixture of concentrated hydrochloric acid (10 ml) and acetic acid (10 ml) a solution of sodium nitrite (1.4 g) in water (5 ml) is dropwise added during 30 minutes, keeping the temperature at 0°-3° C. by external cooling. After additional stirring at 0° C. for 10 minutes, the resulting diazonium-solution is slowly added to a solution of cupric chloride dihydrate (1.5 g) in water (4 ml) and acetic acid (25 ml) saturated with dry sulphur dioxide while stirring at 22°-25° C. After stirring for a further 1 hour, the mixture is cooled to precipitate crude (4-benzyl-3-n-butoxy-5-chlorosulfonylbenzyl)dimethylamine hydrochloride. The hydrochloride is collected by filtration and washed with a minor amount of ice-cold acetic acid. It is then added in portions to a stirred, saturated solution of dry ammonia in methanol (30 ml) keeping the temperature at 10°-12° C. by external cooling. The resulting solution is stirred for 16 hours at 22°-25° C. and is then diluted with water (100 ml) to precipitate crude (4-benzyl-3-n-butoxy-5-sulfamylbenzyl)dimethylamine. After filtration and recrystallization twice from aqueous ethanol it is obtained with a melting point of 109°-111° C. The material (IR, analysis) is identical with the material prepared as in Example 180.

reactant | (5-amino-4-benzyl-3-n-butoxybenzyl)dimethylamine | 6.25 g | NC=1C(=C(C=C(CN(C)C)C1)OCCCC)CC1=CC=CC=C1 | C20H28N2O
reactant | hydrochloric acid | 10 ml | Cl | ClH
reactant | sodium nitrite | 1.4 g | N(=O)[O-].[Na+]
reactant | sulphur dioxide | S(=O)=O | O2S
solvent | water | 5 ml | O | H2O
solvent | water | 4 ml | O | H2O
solvent | acetic acid | 25 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | (4-benzyl-3-n-butoxy-5-sulfamylbenzyl)dimethylamine | C(C1=CC=CC=C1)C1=C(C=C(CN(C)C)C=C1S(N)(=O)=O)OCCCC | C20H28N2O3S
